US05250540
3-(1-Hydroxy-but-3-en-1-yl)-2-methoxypyridine
29.9 g (1.1 g-atom) of aluminium flakes and 100 mg of mercury(II) chloride are suspended in 300 ml of anhydrous tetrahydrofuran under argon. The mixture is heated to 40° C. and 1-2 ml of 214.0 g (1.77 mol) of allyl bromide in 250 ml of anhydrous tetrahydrofuran are slowly added dropwise. The temperature during this rises to approximately 50° C. The allyl bromide solution is then added dropwise with stirring at such a rate that the temperature of the solution does not exceed 50° C. The solution is subsequently stirred for 1 hour at 60° C., and cooled to -60° C. and 112.4 g (0.765 mol) of 2-methoxypyridine-3-carbaldehyde in 250 ml of anhydrous tetrahydrofuran are added dropwise at this temperature. The mixture is then stirred for 1 hour at 0° C. and for 2 hours at 20° C. Subsequently, 500 ml of saturated ammonium chloride solution are added dropwise with cooling, the mixture is stirred for 0.5 hours, filtered and the filtrate is concentrated in vacuo. The residue is taken up in ethyl acetate, washed with water and dried over sodium sulphate. 136.1 g of a light yellow oil is obtained which is fractionally distilled.

reactant | aluminium | 29.9 g | [Al] | Al
reactant | allyl bromide | 1.77 mol, 214.0 g | C(C=C)Br | C3H5Br
reactant | 2-methoxypyridine-3-carbaldehyde | 0.765 mol, 112.4 g | COC1=NC=CC=C1C=O | C7H7NO2
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
catalyst | mercury(II) chloride | 100 mg | [Hg](Cl)Cl
product | 3-(1-Hydroxy-but-3-en-1-yl)-2-methoxypyridine | 136.1 g | OC(CC=C)C=1C(=NC=CC1)OC | C10H13NO2
